US04567052
N-[1-(Methoxyacetyloxy)-2,2,2-trichloroethyl]-3-(2,3-dichlorophenyl)-4-cyanopyrrole
4.8 g of 3-cyano-4-(2,3-dichlorophenyl)pyrrole are dissolved in 50 ml of tetrahydrofuran and to the solution are added 0.2 ml of diazabicyclo[5.4.0]undec-7-ene and then 2.3 ml of chloral. The solution is cooled to -5° C., then 3.3 ml of triethylamine are added dropwise. The reaction mixture is stirred for 1 hour at -5° C. and then a solution of 2.2 ml of methoxyacetyl chloride in 10 ml of tetrahydrofuran is slowly added dropwise at -10° to -5° C. After it has been stirred for 1 hour in a thawing cooling bath, the reaction mixture is poured into ice-water and extracted twice with ethyl acetate. The organic extracts are washed twice with cold dilute hydrochloric acid and twice with a cold semi-saturated solution of sodium chloride, then dried over sodium sulfate and filtered. The filtrate is concentrated and the residue is crystallised from petroleum ether, affording colourless crystals of the title compound with a melting point of 88°-90° C.

reactant | 3-cyano-4-(2,3-dichlorophenyl)pyrrole | 4.8 g | C(#N)C1=CNC=C1C1=C(C(=CC=C1)Cl)Cl | C11H6Cl2N2
reactant | diazabicyclo[5.4.0]undec-7-ene | 0.2 ml | N12NCCCCC2=CCCC1 | C9H16N2
reactant | chloral | 2.3 ml | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | methoxyacetyl chloride | 2.2 ml | COCC(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 3.3 ml | C(C)N(CC)CC | C6H15N
product | N-[1-(Methoxyacetyloxy)-2,2,2-trichloroethyl]-3-(2,3-dichlorophenyl)-4-cyanopyrrole | COCC(=O)OC(C(Cl)(Cl)Cl)N1C=C(C(=C1)C#N)C1=C(C(=CC=C1)Cl)Cl | C16H11Cl5N2O3
